US05194671
77.8 g (1.05 mol) of calcium hydroxide were placed in 550 ml of methylene chloride, and 116 g (1.0 mol) of methyl acetoacetate were added dropwise at 20° to 30° C. over 20 minutes, with vigorous stirring. Stirring was then continued for half an hour. 122.6 g (1.15 mol) of butyryl chloride were then metered into the thick suspension at a temperature of 30° to 35° C. over 1.5 hours. Stirring was then continued for 2 hours at 40° C. 56.2 g (1.05 mol) of ammonium chloride in 350 ml of water were then added to the reaction mixture at 30° C. and the resulting mixture was stirred for half an hour. After the pH had been adjusted to 8.9-9.0 by the addition of aqueous ammonia, the mixture was stirred for a further 3 hours at 30° to 35° C. The reaction mixture was then acidified with concentrated hydrochloric acid (pH 0.5-1.0) and washed with sodium bicarbonate solution and water. After separation of the aqueous phase, the methylene chloride was distilled off on an evaporator. This gave 134 g (GC purity 84%) of methyl butyrylacetate as a yellowish liquid (yield 78%).

reactant | calcium hydroxide | 1.05 mol, 77.8 g | [OH-].[Ca+2].[OH-]
reactant | methyl acetoacetate | 1.0 mol, 116 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | butyryl chloride | 1.15 mol, 122.6 g | C(CCC)(=O)Cl | C4H7ClO
reactant | ammonium chloride | 1.05 mol, 56.2 g | [Cl-].[NH4+]
reactant | ammonia | N | H3N
reactant | hydrochloric acid | pH 0.5-1.0 | Cl | ClH
solvent | methylene chloride | 550 ml | C(Cl)Cl | CH2Cl2
solvent | water | 350 ml | O | H2O
product | methyl butyrylacetate | 134 g, yield 78% | C(CCC)(=O)CC(=O)OC | C7H12O3
